US05216173
Preparation and Thermal Behavior of N-Cyano-N'-phenylbutanediamide
Using high temperature NMR techniques (150° C., nitrobenzene), the rapid conversion of the diamide to N-phenylsuccinimide was observed.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | diamide | CN(C)C(=O)N=NC(=O)N(C)C | C6H12N4O2
reactant | N-phenylsuccinimide | C1(=CC=CC=C1)N1C(CCC1=O)=O | C10H9NO2
product | N-Cyano-N'-phenylbutanediamide | C(#N)NC(CCC(=O)NC1=CC=CC=C1)=O | C11H11N3O2
